US07034015B2
N-(2-{[3-Chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-N′-(4-phenoxybutyl)succinamide (Compound 204)
4-(4,6-Dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholin-4-ium chloride (DMT-MM) (69 mg, 0.25 mmol) was added to a solution of N-(2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-succinamic acid (100 mg, 0.23 mmol) (disclosed in WO 01/05746) and 4-phenoxybutylamine (30 mg, 0.25 mmol) in methanol (2.0 mL). The reaction mixture was stirred at room temperature for 18 h. The reaction mixture was poured into 1 N HCl (aq.) and was extracted with EtOAc (×2). The combined organic phases were washed with water, dried (MgSO4), filtered and concentrated in vacuo. The crude product was purified by flash chromatography using DCM/MeOH/NH3(aq.) 95:5:0.5 as the eluent to afford the title compound as a yellow solid.

reactant | 4-(4,6-Dimethoxy-1,3,5-triazin-2-yl)-4-methylmorpholin-4-ium chloride | 0.25 mmol, 69 mg | [Cl-].COC1=NC(=NC(=N1)OC)[N+]1(CCOCC1)C
reactant | N-(2-{[3-chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-succinamic acid | 0.23 mmol, 100 mg | ClC=1C=C(C=CC1C(C1=C(C=CC=C1)C)=O)NC1=C(C=CC=C1)NC(CCC(=O)O)=O | C24H21ClN2O4
reactant | 4-phenoxybutylamine | 0.25 mmol, 30 mg | O(C1=CC=CC=C1)CCCCN | C10H15NO
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 2.0 mL | CO | CH4O
product | N-(2-{[3-Chloro-4-(2-methylbenzoyl)phenyl]amino}phenyl)-N′-(4-phenoxybutyl)succinamide | ClC=1C=C(C=CC1C(C1=C(C=CC=C1)C)=O)NC1=C(C=CC=C1)NC(CCC(=O)NCCCCOC1=CC=CC=C1)=O | C34H34ClN3O4
